### PR TITLE
[Merged by Bors] - feat: sums of meromorphic functions are meromorphic

### PR DESCRIPTION
**Pull request by kebekus**
In complete analogy to existing statements about products, establish in very few lines that sums of meromorphic functions are meromorphic. Fix several docstrings.

---

This is Mark II of my original PR #30587. I decided to open a new, clean PR after the original PR became too messy because of substantial changes to the original PR that then needed to be reverted.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 1]
```diff
@@ -109,28 +109,49 @@ lemma fun_mul {f g : 𝕜 → 𝕜} {x : 𝕜} (hf : MeromorphicAt f x) (hg : Me
...
+/-- Finite products of meromorphic functions are meromorphic. -/
 @[fun_prop]
 theorem prod {ι : Type*} {s : Finset ι} {f : ι → 𝕜 → 𝕜} {x : 𝕜}
     (h : ∀ σ, MeromorphicAt (f σ) x) :
     MeromorphicAt (∏ n ∈ s, f n) x := by
   classical
   induction s using Finset.induction with
   | empty =>
-    rw [Finset.prod_empty]
+    simp only [Finset.prod_empty]
```
Comment (mcdoll) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: This seems like a bad change.

**Review by mcdoll — APPROVED** [review]
Generally looks good to me.
Can you please remove the "Mark II" from the title and move the explanation of the history below the line (so that it does not appear in the final commit).

**Comment by kebekus** [comment]
> Generally looks good to me. Can you please remove the "Mark II" from the title and move the explanation of the history below the line (so that it does not appear in the final commit).

Done.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: Reverted the change, as you suggested.

This is so bad, I can't believe I did that.

**Comment by grunweg** [comment]
Indeed, let's keep an eye on the discussion about `ofNat` lemmas (and revisit the variable re-use in a future PR) --- but let's not stall this PR for it. Thanks for your patience.
bors merge
